US07834063B2
4-[{2-[(5-Methyl-2-pyridinyl)oxy]ethyl}(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 5-methyl-2-pyridinol, using dry DME as reaction solvent: MS (APCI) m/z 404 (M+1).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | 5-methyl-2-pyridinol | CC=1C=CC(=NC1)O | C6H7NO
solvent | DME | COCCOC | C4H10O2
product | 4-[{2-[(5-Methyl-2-pyridinyl)oxy]ethyl}(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | CC=1C=CC(=NC1)OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C18H15F6N3O
